US05073556
9 ml of acetic acid, 1.2 ml of concentrated sulfuric acid and 7 ml of water were added to 1.40 g (0.0039 moles) of ethyl 1-cyclopropyl-8-difluoromethoxy-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate [(XX), R1 =--OCHF2, R3' =H, R17 =C2H5, X=F] (prepared as described in Preparation 6), and the mixture was heated under reflux for 1 hour. At the end of this time, it was cooled to room temperature and poured into ice-water. The precipitated crystals were collected by filtration and washed with water and with diethyl ether, in that order, to give 1.09 g of 1-cyclopropyl-8-difluoromethoxy-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid as colorless needles, melting at 202°-207° C.

reactant | acetic acid | 9 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 1.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethyl 1-cyclopropyl-8-difluoromethoxy-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 0.0039 moles, 1.40 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC(F)F)F)F)=O)C(=O)OCC | C16H13F4NO4
solvent | water | 7 ml | O | H2O
product | 1-cyclopropyl-8-difluoromethoxy-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.09 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC(F)F)F)F)=O)C(=O)O | C14H9F4NO4
